US07244843B2
Step C. Preparation of (R)-3-Benzyl-3-methylpiperazine-2,5-dione
A solution of α-methyl-(R)-phenylalanyl)glycine, ethyl ester (0.63 g, 2.4 mmol) in sec-butanol (14 ml) and toluene (7 ml) was stirred at reflux. After 21 h, the solvent was removed in vacuo and the residue azeotroped with toluene (3×) to afford the product (0.51 g, 100% yield) as a white solid. MS (ESI) 219 (M+H). This was used in the next step without further purification.

reactant | glycine, ethyl ester | 2.4 mmol, 0.63 g | NCC(=O)OCC | C4H9NO2
reactant | sec-butanol | 14 ml | C(C)(CC)O | C4H10O
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-3-Benzyl-3-methylpiperazine-2,5-dione | 0.51 g, 100% yield | C(C1=CC=CC=C1)[C@@]1(C(NCC(N1)=O)=O)C | C12H14N2O2
